US07001900B2
DBU (4.71 mL, 31.5 mmol) and methyl{[(benzyloxy)carbonyl]amino}(dimethoxyphosphoryl)acetate (10.43 g, 31.5 mmol) are dissolved in CH2Cl2 (175 mL). The resulting solution is added drop-wise a solution of 4-methylphthalaldehyde (4.24 g, 28.6 mmol) in CH2Cl2 (200 mL) at 0° C. The reaction is stirred cold for 1 hour at 0° C. and then for an additional 18 hours at rt. The volatiles are evaporated to an orange oil, which is dissolved in CHCl3 (200 mL). DBU (4.79 mL, 32.0 mmol) and TFAA (4.52 mL, 32.0 mmol) are added. The reaction is stirred under N2 for 3 hours. Upon completion, the reaction is quenched with 250 mL of saturated NaHCO3 solution. The organic layer is separated and the aqueous layer is extracted with 2×250 mL of CHCl3. The organic layers are combined, dried (MgSO4), filtered, and concentrated. The crude reaction mixture is purified by column chromatography using a step gradient of 20% EtOAc to 26% EtOAc in hexanes in 2% intervals. The resulting product-containing fractions are concentrated and purified via preparative achiral HPLC to yield 0.84 g of methyl 6-methyl-isoquinoline-3-carboxylate as a yellow solid. HRMS (FAB) calculated for C12H11N O2+H+: 202.0868, found 202.0863.

reactant | DBU | 31.5 mmol, 4.71 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | methyl{[(benzyloxy)carbonyl]amino}(dimethoxyphosphoryl)acetate | 31.5 mmol, 10.43 g | COC(C(P(=O)(OC)OC)NC(=O)OCC1=CC=CC=C1)=O | C13H18NO7P
reactant | 4-methylphthalaldehyde | 28.6 mmol, 4.24 g | CC=1C=C(C(C=O)=CC1)C=O | C9H8O2
reactant | DBU | 32.0 mmol, 4.79 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | TFAA | 32.0 mmol, 4.52 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | CH2Cl2 | 175 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | methyl 6-methyl-isoquinoline-3-carboxylate | 0.84 g | CC=1C=C2C=C(N=CC2=CC1)C(=O)OC | C12H11NO2
